US03974176
2.8 g of sodium borohydride are added to a suspension of 46.4 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-carboxaldehyde in 700 ml of dimethylformamide and 100 ml of water, the temperature possibly rising to 35°. After 30 minutes purification is carried out with active charcoal, precipitation is carried out with 700 ml of water and the precipitate is well washed. 5-Chloro-3-p-chlorophenyl-4-hydroxymethyl-1-phenyl-pyrazole is obtained with a 95% yield; F 152.5°-153.5° (from acetone).

reactant | sodium borohydride | 2.8 g | [BH4-].[Na+]
reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-carboxaldehyde | 46.4 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C=O | C16H10Cl2N2O
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-Chloro-3-p-chlorophenyl-4-hydroxymethyl-1-phenyl-pyrazole | 95% yield | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CO | C16H12Cl2N2O
